US09399640B2
Step 2. 6-Methyl-1-[(4-methylphenyl)sulfonyl]-4-(4-phenoxy-1,3-benzoxazol-5-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
This compound was synthesized according to the procedure of Example 10, Step 5, using 5-bromo-4-phenoxy-1,3-benzoxazole and 6-methyl-1[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one as the starting materials. LCMS calculated for C28H22N3O5S (M+H)+: m/z=512.1. found: 512.0.

reactant | 5-bromo-4-phenoxy-1,3-benzoxazole | BrC=1C=CC2=C(N=CO2)C1OC1=CC=CC=C1 | C13H8BrNO2
reactant | 6-methyl-1[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C21H25BN2O5S
product | 6-Methyl-1-[(4-methylphenyl)sulfonyl]-4-(4-phenoxy-1,3-benzoxazol-5-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | CN1C(C2=C(C(=C1)C=1C=CC3=C(N=CO3)C1OC1=CC=CC=C1)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C28H21N3O5S
